**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Flyback Transformers
* Matchcode:              WE-FLYTI 
* Library Type:           Pspice
* Version:                rev24a
* Created/modified by:    Ella      
* Date and Time:          2024-07-31
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************	
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************	

.subckt	FLYTI_EE1675_750343772		2  4  7  8  9	
.param RxLkg=38.36ohm				
.param Leakage=0.1692uh				
Rlkg	2	2a	{RxLkg}	
L_Lkg	2	2a	{Leakage}	
Lpri1	2a	2b	12.961uH	
Rser1	2b	4	170mohm	
Lsec1	7	7a	397.183uH	
Rser5	7a	8	926mohm	
Lsec2	8	8a	397.183uH	
Rser6	8a	9	1339mohm	
K Lpri1    Lsec1 Lsec2       1				
.param Cprm1=3704pf				
.param Rdmp1=2976.95ohm				
Cpri1	2	4a	{Cprm1}	
Rser13	4a	4	10mohm	
Rdmp1	2	4	{Rdmp1}	
Rg3	2	0	20meg	
Rg7	4	0	20meg	
Rg11	7	0	20meg	
Rg19	8	0	20meg	
Rg20	9	0	20meg	
.ends

.subckt	FLYTI_EPQ13_750319214		1  5  2  5  4  3  6  7  8  10  7  9		
.param RxLkg=1070.74ohm					
.param Leakage=0.2715uh					
Rlkg	1	1a	{RxLkg/2}	
L_Lkg	1	1a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}
Lpri1	1a	1b	11.254uH	
Rser1	1b	5	438mohm
Lpri2	2a	5a	11.254uH
Rser2	5a	5	501mohm	
Laux1	4	4a	6.89uH
Rser3	4a	3	623mohm
Lsec1	6	6a	1.266uH
Rser5	6a	7	322mohm
Lsec3	8	8a	31.639uH	
Rser7	8a	10	292mohm
Lsec2	7	7a	31.639uH	
Rser6	7a	9	292mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2 Lsec3      1				
.param Cprm1=7.056pf					
.param Cprm2=7.056pf					
.param Rdmp1=44919.79ohm					
.param Rdmp2=44919.79ohm				
Cpri1	1	5b	{Cprm1}	
Rser13	5b	5	10mohm	
Cpri2	2	5c	{Cprm2}	
Rser14	5c	5	10mohm	
Rdmp1	1	5	{Rdmp1}		
Rdmp2	2	5	{Rdmp2}		
Rg3	1	0	20meg		
Rg4	2	0	20meg		
Rg5	4	0	20meg		
Rg7	5	0	20meg		
Rg8	5	0	20meg		
Rg9	3	0	20meg		
Rg11	6	0	20meg		
Rg12	8	0	20meg		
Rg13	7	0	20meg		
Rg19	7	0	20meg		
Rg20	10	0	20meg		
Rg21	9	0	20meg
.ends
				
.subckt	FLYTI_EFD20_750313102		1  4  12  9  11  8  10  7	
.param RxLkg=811.5ohm				
.param Leakage=0.36uh				
Rlkg	1	1a	{RxLkg}	
L_Lkg	1	1a	{Leakage}	
Lpri1	1a	1b	11.64uH	
Rser1	1b	4	19mohm	
Lsec1	12	12a	12uH	
Rser5	12a	9	64mohm	
Lsec2	11	11a	12uH	
Rser6	11a	8	64mohm	
Lsec3	10	10a	12uH	
Rser7	10a	7	64mohm	
K Lpri1    Lsec1 Lsec2 Lsec3      1				
.param Cprm1=41pf				
.param Rdmp1=27050.09ohm				
Cpri1	1	4a	{Cprm1}	
Rser13	4a	4	10mohm	
Rdmp1	1	4	{Rdmp1}	
Rg3	1	0	20meg	
Rg7	4	0	20meg	
Rg11	12	0	20meg	
Rg12	11	0	20meg	
Rg13	10	0	20meg	
Rg19	9	0	20meg	
Rg20	8	0	20meg	
Rg21	7	0	20meg	
.ends				
.subckt	FLYTI_EFD25_750344050		3  2  1  6  5  9  7	
.param RxLkg=834.04ohm				
.param Leakage=0.58uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	3a	3b	15.96uH	
Rser1	3b	2	31mohm	
Lpri2	2a	2b	15.96uH	
Rser2	2b	1	31mohm	
Laux1	6	6a	5.53uH	
Rser3	6a	5	143mohm	
Lsec1	9	9a	19.071uH	
Rser5	9a	7	21mohm	
K Lpri1 Lpri2 Laux1  Lsec1        1				
.param Cprm1=37.2pf				
.param Cprm2=37.2pf				
.param Rdmp1=23367.42ohm				
.param Rdmp2=23367.42ohm				
Cpri1	3	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	3	2	{Rdmp1}	
Rdmp2	2	1	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	5	0	20meg	
Rg11	9	0	20meg	
Rg19	7	0	20meg	
.ends				
.subckt	FLYTI_EP7_750319029		3  1  7  5	
.param RxLkg=631.35ohm				
.param Leakage=0.125uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	6.875uH	
Rser1	3b	1	28mohm	
Lsec1	7	7a	7uH	
Rser5	7a	5	37mohm	
K Lpri1    Lsec1        1				
.param Cprm1=14pf				
.param Rdmp1=35355.35ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg7	1	0	20meg	
Rg11	7	0	20meg	
Rg19	5	0	20meg	
.ends				
.subckt	FLYTI_EP7_750318704		1  3  5  6  7  8	
.param RxLkg=365.96ohm				
.param Leakage=0.075uh				
Rlkg	1	1a	{RxLkg}	
L_Lkg	1	1a	{Leakage}	
Lpri1	1a	1b	6.925uH	
Rser1	1b	3	41mohm	
Lsec1	5	5a	15.75uH	
Rser5	5a	6	115mohm	
Lsec2	7	7a	4.48uH	
Rser6	7a	8	70mohm	
K Lpri1    Lsec1 Lsec2       1				
.param Cprm1=15pf				
.param Rdmp1=34156.52ohm				
Cpri1	1	3a	{Cprm1}	
Rser13	3a	3	10mohm	
Rdmp1	1	3	{Rdmp1}	
Rg3	1	0	20meg	
Rg7	3	0	20meg	
Rg11	5	0	20meg	
Rg12	7	0	20meg	
Rg19	6	0	20meg	
Rg20	8	0	20meg	
.ends				
.subckt	FLYTI_EP7_750318701		1  3  5  7	
.param RxLkg=665.68ohm				
.param Leakage=0.25uh				
Rlkg	1	1a	{RxLkg}	
L_Lkg	1	1a	{Leakage}	
Lpri1	1a	1b	8.35uH	
Rser1	1b	3	90mohm	
Lsec1	5	5a	8.6uH	
Rser5	5a	7	91mohm	
K Lpri1    Lsec1        1				
.param Cprm1=41pf				
.param Rdmp1=22899.55ohm				
Cpri1	1	3a	{Cprm1}	
Rser13	3a	3	10mohm	
Rdmp1	1	3	{Rdmp1}	
Rg3	1	0	20meg	
Rg7	3	0	20meg	
Rg11	5	0	20meg	
Rg19	7	0	20meg	
.ends				
.subckt	FLYTI_EPQ13_750318525		2  5  1  3  4  9  7  6	
.param RxLkg=521.75ohm				
.param Leakage=0.7uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	5	5a	{RxLkg/2}	
L_Lkg2	5	5a	{Leakage/2}	
Lpri1	2a	2b	37.15uH	
Rser1	2b	5	75mohm	
Lpri2	5a	5b	37.15uH	
Rser2	5b	1	75mohm	
Laux1	3	3a	21.094uH	
Rser3	3a	4	150mohm	
Lsec1	9	9a	4.167uH	
Rser5	9a	7	7mohm	
Lsec2	7	7a	4.167uH	
Rser6	7a	6	63mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2       1				
.param Cprm1=60pf				
.param Cprm2=60pf				
.param Rdmp1=27950.83ohm				
.param Rdmp2=27950.83ohm				
Cpri1	2	5a	{Cprm1}	
Rser13	5a	5	10mohm	
Cpri2	5	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	2	5	{Rdmp1}	
Rdmp2	5	1	{Rdmp2}	
Rg3	2	0	20meg	
Rg5	3	0	20meg	
Rg7	5	0	20meg	
Rg8	1	0	20meg	
Rg9	4	0	20meg	
Rg11	9	0	20meg	
Rg19	7	0	20meg	
Rg20	6	0	20meg	
.ends				
.subckt	FLYTI_EP7_750317595		1  4  5  6  7  8	
.param RxLkg=658.81ohm				
.param Leakage=0.25uh				
Rlkg	1	1a	{RxLkg}	
L_Lkg	1	1a	{Leakage}	
Lpri1	1a	1b	29.75uH	
Rser1	1b	4	105mohm	
Lsec1	5	5a	30uH	
Rser5	5a	6	198mohm	
Lsec2	7	7a	9.075uH	
Rser6	7a	8	155mohm	
K Lpri1    Lsec1 Lsec2       1				
.param Cprm1=12pf				
.param Rdmp1=79056.92ohm				
Cpri1	1	4a	{Cprm1}	
Rser13	4a	4	10mohm	
Rdmp1	1	4	{Rdmp1}	
Rg3	1	0	20meg	
Rg7	4	0	20meg	
Rg11	5	0	20meg	
Rg12	7	0	20meg	
Rg19	6	0	20meg	
Rg20	8	0	20meg	
.ends				
.subckt	FLYTI_EP13_750317594		3  4  5  2  1  7  9	
.param RxLkg=1130.67ohm				
.param Leakage=0.3uh				
Rlkg	3	3a	{RxLkg/2}	
L_Lkg	3	3a	{Leakage/2}	
Rlkg2	4	4a	{RxLkg/2}	
L_Lkg2	4	4a	{Leakage/2}	
Lpri1	3a	3b	4.85uH	
Rser1	3b	4	38mohm	
Lpri2	4a	4b	4.85uH	
Rser2	4b	5	39mohm	
Laux1	2	2a	5uH	
Rser3	2a	1	95mohm	
Lsec1	7	7a	20uH	
Rser5	7a	9	150mohm	
K Lpri1 Lpri2 Laux1  Lsec1        1				
.param Cprm1=17.6pf				
.param Cprm2=17.6pf				
.param Rdmp1=18844.47ohm				
.param Rdmp2=18844.47ohm				
Cpri1	3	4a	{Cprm1}	
Rser13	4a	4	10mohm	
Cpri2	4	5a	{Cprm2}	
Rser14	5a	5	10mohm	
Rdmp1	3	4	{Rdmp1}	
Rdmp2	4	5	{Rdmp2}	
Rg3	3	0	20meg	
Rg5	2	0	20meg	
Rg7	4	0	20meg	
Rg8	5	0	20meg	
Rg9	1	0	20meg	
Rg11	7	0	20meg	
Rg19	9	0	20meg	
.ends				
.subckt	FLYTI_EFD15_750311805		3  5  2  1  11  9  8  7	
.param RxLkg=1039.75ohm				
.param Leakage=1.2uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	165.3uH	
Rser1	3b	5	680mohm	
Laux1	2	2a	41.625uH	
Rser3	2a	1	830mohm	
Lsec1	11	11a	41.625uH	
Rser5	11a	9	90mohm	
Lsec2	8	8a	10.406uH	
Rser6	8a	7	410mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=20pf				
.param Rdmp1=144265.18ohm				
Cpri1	3	5a	{Cprm1}	
Rser13	5a	5	10mohm	
Rdmp1	3	5	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	2	0	20meg	
Rg7	5	0	20meg	
Rg9	1	0	20meg	
Rg11	11	0	20meg	
Rg12	8	0	20meg	
Rg19	9	0	20meg	
Rg20	7	0	20meg	
.ends				
.subckt	FLYTI_EP10_750318517		1  2  4  3  5  6  7  8	
.param RxLkg=1237.68ohm				
.param Leakage=2.5uh				
Rlkg	1	1a	{RxLkg}	
L_Lkg	1	1a	{Leakage}	
Lpri1	1a	1b	197.5uH	
Rser1	1b	2	395mohm	
Laux1	4	4a	50uH	
Rser3	4a	3	935mohm	
Lsec1	5	5a	12.5uH	
Rser5	5a	6	190mohm	
Lsec2	7	7a	7.717uH	
Rser6	7a	8	27mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=51pf				
.param Rdmp1=99014.2ohm				
Cpri1	1	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Rdmp1	1	2	{Rdmp1}	
Rg3	1	0	20meg	
Rg5	4	0	20meg	
Rg7	2	0	20meg	
Rg9	3	0	20meg	
Rg11	5	0	20meg	
Rg12	7	0	20meg	
Rg19	6	0	20meg	
Rg20	8	0	20meg	
.ends				
.subckt	FLYTI_EPQ13_750317933		3  5  2  1  6  9	
.param RxLkg=334.08ohm				
.param Leakage=0.15uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	20.85uH	
Rser1	3b	5	35mohm	
Laux1	2	2a	21uH	
Rser3	2a	1	133mohm	
Lsec1	6	6a	5.25uH	
Rser5	6a	9	7.8mohm	
K Lpri1  Laux1  Lsec1        1				
.param Cprm1=24pf				
.param Rdmp1=46770.69ohm				
Cpri1	3	5a	{Cprm1}	
Rser13	5a	5	10mohm	
Rdmp1	3	5	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	2	0	20meg	
Rg7	5	0	20meg	
Rg9	1	0	20meg	
Rg11	6	0	20meg	
Rg19	9	0	20meg	
.ends				
.subckt	FLYTI_EP7_750344600		1  3  6  5  4	
.param RxLkg=668.15ohm				
.param Leakage=0.5uh				
Rlkg	1	1a	{RxLkg}	
L_Lkg	1	1a	{Leakage}	
Lpri1	1a	1b	34.5uH	
Rser1	1b	3	130mohm	
Lsec1	6	6a	35uH	
Rser5	6a	5	200mohm	
Lsec2	5	5a	3.889uH	
Rser6	5a	4	80mohm	
K Lpri1    Lsec1 Lsec2       1				
.param Cprm1=40pf				
.param Rdmp1=46770.77ohm				
Cpri1	1	3a	{Cprm1}	
Rser13	3a	3	10mohm	
Rdmp1	1	3	{Rdmp1}	
Rg3	1	0	20meg	
Rg7	3	0	20meg	
Rg11	6	0	20meg	
Rg19	5	0	20meg	
Rg20	4	0	20meg	
.ends				
.subckt	FLYTI_EP7_750342984		1  2  3  4  6  5  7  8	
.param RxLkg=510.15ohm				
.param Leakage=0.161uh				
Rlkg	1	1a	{RxLkg}	
L_Lkg	1	1a	{Leakage}	
Lpri1	1a	1b	29.839uH	
Rser1	1b	2	97mohm	
Laux1	3	3a	13.333uH	
Rser3	3a	4	149mohm	
Lsec1	6	6a	13.333uH	
Rser5	6a	5	79mohm	
Lsec2	7	7a	13.333uH	
Rser6	7a	8	80mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=8.3pf				
.param Rdmp1=95058.69ohm				
Cpri1	1	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Rdmp1	1	2	{Rdmp1}	
Rg3	1	0	20meg	
Rg5	3	0	20meg	
Rg7	2	0	20meg	
Rg9	4	0	20meg	
Rg11	6	0	20meg	
Rg12	7	0	20meg	
Rg19	5	0	20meg	
Rg20	8	0	20meg	
.ends				
.subckt	FLYTI_EP7_750317605		1  4  5  7	
.param RxLkg=762.82ohm				
.param Leakage=0.45uh				
Rlkg	1	1a	{RxLkg}	
L_Lkg	1	1a	{Leakage}	
Lpri1	1a	1b	29.55uH	
Rser1	1b	4	130mohm	
Lsec1	5	5a	3.333uH	
Rser5	5a	7	19mohm	
K Lpri1    Lsec1        1				
.param Cprm1=29pf				
.param Rdmp1=50854.78ohm				
Cpri1	1	4a	{Cprm1}	
Rser13	4a	4	10mohm	
Rdmp1	1	4	{Rdmp1}	
Rg3	1	0	20meg	
Rg7	4	0	20meg	
Rg11	5	0	20meg	
Rg19	7	0	20meg	
.ends				
.subckt	FLYTI_EP7_750314189		2  4  8  7  6  5	
.param RxLkg=4366.67ohm				
.param Leakage=0.45uh				
Rlkg	2	2a	{RxLkg}	
L_Lkg	2	2a	{Leakage}	
Lpri1	2a	2b	2.05uH	
Rser1	2b	4	49mohm	
Lsec1	8	8a	1.736uH	
Rser5	8a	7	93mohm	
Lsec2	6	6a	1.736uH	
Rser6	6a	5	71mohm	
K Lpri1    Lsec1 Lsec2       1				
.param Cprm1=10.62pf				
.param Rdmp1=24259.27ohm				
Cpri1	2	4a	{Cprm1}	
Rser13	4a	4	10mohm	
Rdmp1	2	4	{Rdmp1}	
Rg3	2	0	20meg	
Rg7	4	0	20meg	
Rg11	8	0	20meg	
Rg12	6	0	20meg	
Rg19	7	0	20meg	
Rg20	5	0	20meg	
.ends				
.subckt	FLYTI_EP13_750342354		1  4  2  5  10  7  9  6	
.param RxLkg=468.94ohm				
.param Leakage=0.143uh				
Rlkg	1	1a	{RxLkg*2}	
L_Lkg	1	1a	{Leakage*2}	
Rlkg2	2	2a	{RxLkg*2}	
L_Lkg2	2	2a	{Leakage*2}	
Lpri1	1a	1b	11.857uH	
Rser1	1b	4	64mohm	
Lpri2	2a	2b	11.857uH	
Rser2	2b	5	64mohm	
Lsec1	10	10a	8.333uH	
Rser5	10a	7	22mohm	
Lsec2	9	9a	8.333uH	
Rser6	9a	6	22mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1				
.param Cprm1=9.6865pf				
.param Cprm2=9.3672pf				
.param Rdmp1=39351.61ohm				
.param Rdmp2=39351.61ohm				
Cpri1	1	4a	{Cprm1}	
Rser13	4a	4	10mohm	
Cpri2	2	5a	{Cprm2}	
Rser14	5a	5	10mohm	
Rdmp1	1	4	{Rdmp1}	
Rdmp2	2	5	{Rdmp2}	
Rg3	1	0	20meg	
Rg4	2	0	20meg	
Rg7	4	0	20meg	
Rg8	5	0	20meg	
Rg11	10	0	20meg	
Rg12	9	0	20meg	
Rg19	7	0	20meg	
Rg20	6	0	20meg	
.ends				
.subckt	FLYTI_EP13_750342985		9  11  14  16  3  1  8  7  6  5	
.param RxLkg=516.4ohm				
.param Leakage=0.4uh				
Rlkg	9	9a	{RxLkg}	
L_Lkg	9	9a	{Leakage}	
Lpri1	9a	9b	29.6uH	
Rser1	9b	11	60mohm	
Laux1	14	14a	8.926uH	
Rser3	14a	16	180mohm	
Lsec1	3	3a	8.926uH	
Rser5	3a	1	38mohm	
Lsec2	8	8a	0.558uH	
Rser6	8a	7	50mohm	
Lsec3	6	6a	0.558uH	
Rser7	6a	5	50mohm	
K Lpri1  Laux1  Lsec1 Lsec2 Lsec3      1				
.param Cprm1=50pf				
.param Rdmp1=38729.81ohm				
Cpri1	9	11a	{Cprm1}	
Rser13	11a	11	10mohm	
Rdmp1	9	11	{Rdmp1}	
Rg3	9	0	20meg	
Rg5	14	0	20meg	
Rg7	11	0	20meg	
Rg9	16	0	20meg	
Rg11	3	0	20meg	
Rg12	8	0	20meg	
Rg13	6	0	20meg	
Rg19	1	0	20meg	
Rg20	7	0	20meg	
Rg21	5	0	20meg	
.ends				
.subckt	FLYTI_EFD25_760372002		4  1  7  9  8  10  11  12	
.param RxLkg=1368.38ohm				
.param Leakage=0.5uh				
Rlkg	4	4a	{RxLkg}	
L_Lkg	4	4a	{Leakage}	
Lpri1	4a	4b	24.5uH	
Rser1	4b	1	20mohm	
Lsec1	7	7a	6.25uH	
Rser5	7a	9	10mohm	
Lsec2	8	8a	6.25uH	
Rser6	8a	10	10mohm	
Lsec3	11	11a	6.25uH	
Rser7	11a	12	50mohm	
K Lpri1    Lsec1 Lsec2 Lsec3      1				
.param Cprm1=13.3513pf				
.param Rdmp1=68419.18ohm				
Cpri1	4	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	4	1	{Rdmp1}	
Rg3	4	0	20meg	
Rg7	1	0	20meg	
Rg11	7	0	20meg	
Rg12	8	0	20meg	
Rg13	11	0	20meg	
Rg19	9	0	20meg	
Rg20	10	0	20meg	
Rg21	12	0	20meg	
.ends				
.subckt	FLYTI_EFD25_750315778		1  2  3  5  6  10  7	
.param RxLkg=755.8ohm				
.param Leakage=0.557uh				
Rlkg	1	1a	{RxLkg/2}	
L_Lkg	1	1a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	1a	1b	15.222uH	
Rser1	1b	2	26.5mohm	
Lpri2	2a	2b	15.222uH	
Rser2	2b	3	26.5mohm	
Laux1	5	5a	6.055uH	
Rser3	5a	6	85mohm	
Lsec1	10	10a	6.055uH	
Rser5	10a	7	8.4mohm	
K Lpri1 Lpri2 Laux1  Lsec1        1				
.param Cprm1=43.8pf				
.param Cprm2=43.8pf				
.param Rdmp1=21032.11ohm				
.param Rdmp2=21032.11ohm				
Cpri1	1	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	3a	{Cprm2}	
Rser14	3a	3	10mohm	
Rdmp1	1	2	{Rdmp1}	
Rdmp2	2	3	{Rdmp2}	
Rg3	1	0	20meg	
Rg5	5	0	20meg	
Rg7	2	0	20meg	
Rg8	3	0	20meg	
Rg9	6	0	20meg	
Rg11	10	0	20meg	
Rg19	7	0	20meg	
.ends				
.subckt	FLYTI_EFD25_750315623		4  2  3  1  6  5  7  11	
.param RxLkg=868.24ohm				
.param Leakage=0.7uh				
Rlkg	4	4a	{RxLkg/2}	
L_Lkg	4	4a	{Leakage/2}	
Rlkg2	3	3a	{RxLkg/2}	
L_Lkg2	3	3a	{Leakage/2}	
Lpri1	4a	4b	24.65uH	
Rser1	4b	2	55mohm	
Lpri2	3a	3b	24.65uH	
Rser2	3b	1	55mohm	
Laux1	6	6a	25uH	
Rser3	6a	5	50mohm	
Lsec1	7	7a	25uH	
Rser5	7a	11	30mohm	
K Lpri1 Lpri2 Laux1  Lsec1        1				
.param Cprm1=32.5pf				
.param Cprm2=30pf				
.param Rdmp1=31008.62ohm				
.param Rdmp2=31008.62ohm				
Cpri1	4	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	3	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	4	2	{Rdmp1}	
Rdmp2	3	1	{Rdmp2}	
Rg3	4	0	20meg	
Rg4	3	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	5	0	20meg	
Rg11	7	0	20meg	
Rg19	11	0	20meg	
.ends				
.subckt	FLYTI_EFD25_750316708		3  1  4  5  9  6	
.param RxLkg=556.79ohm				
.param Leakage=0.5uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	41.5uH	
Rser1	3b	1	30mohm	
Laux1	4	4a	4.667uH	
Rser3	4a	5	470mohm	
Lsec1	9	9a	4.667uH	
Rser5	9a	6	5mohm	
K Lpri1  Laux1  Lsec1        1				
.param Cprm1=48pf				
.param Rdmp1=46770.69ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	4	0	20meg	
Rg7	1	0	20meg	
Rg9	5	0	20meg	
Rg11	9	0	20meg	
Rg19	6	0	20meg	
.ends				
.subckt	FLYTI_EFD20_750312791		3  1  6  5  9  10  11	
.param RxLkg=53.92ohm				
.param Leakage=0.05uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	9.95uH	
Rser1	3b	1	10mohm	
Laux1	6	6a	12.656uH	
Rser3	6a	5	260mohm	
Lsec1	9	9a	62.5uH	
Rser5	9a	10	125mohm	
Lsec2	10	10a	62.5uH	
Rser6	10a	11	125mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=215pf				
.param Rdmp1=10783.27ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	1	0	20meg	
Rg9	5	0	20meg	
Rg11	9	0	20meg	
Rg19	10	0	20meg	
Rg20	11	0	20meg	
.ends				
.subckt	FLYTI_EFD20_750315252		1  4  8  5	
.param RxLkg=750.38ohm				
.param Leakage=1uh				
Rlkg	1	1a	{RxLkg}	
L_Lkg	1	1a	{Leakage}	
Lpri1	1a	1b	59uH	
Rser1	1b	4	85mohm	
Lsec1	8	8a	106.667uH	
Rser5	8a	5	77mohm	
K Lpri1    Lsec1        1				
.param Cprm1=74pf				
.param Rdmp1=45022.54ohm				
Cpri1	1	4a	{Cprm1}	
Rser13	4a	4	10mohm	
Rdmp1	1	4	{Rdmp1}	
Rg3	1	0	20meg	
Rg7	4	0	20meg	
Rg11	8	0	20meg	
Rg19	5	0	20meg	
.ends				
.subckt	FLYTI_EFD15_750313527		3  1  6  4  7  8  11  12	
.param RxLkg=512.36ohm				
.param Leakage=0.2uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	9.8uH	
Rser1	3b	1	65mohm	
Lsec1	6	6a	2.844uH	
Rser5	6a	4	72mohm	
Lsec2	7	7a	6.4uH	
Rser6	7a	8	100mohm	
Lsec3	11	11a	40uH	
Rser7	11a	12	520mohm	
K Lpri1    Lsec1 Lsec2 Lsec3      1				
.param Cprm1=38.0932pf				
.param Rdmp1=25618.05ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg7	1	0	20meg	
Rg11	6	0	20meg	
Rg12	7	0	20meg	
Rg13	11	0	20meg	
Rg19	4	0	20meg	
Rg20	8	0	20meg	
Rg21	12	0	20meg	
.ends	