**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Gate-Drive-Transformer
* Matchcode:              WE-GDT
* Library Type:           Pspice
* Version:                rev22a
* Created/modified by:    Toby      
* Date and Time:          2022-05-23
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
*nominal
.SUBCKT GDT_EP5_760301103 1 2 3 4 5 6
L1 2 N001b 475u 
Rser1 N001b N001 0.52
L2 4 3b 76u 
Rser2 3b 3 0.11
L4 1 N001 2.3u
C1 3 N001 3.5p
L3 6 5b 76u 
Rser3 5b 5 0.09
C2 6 2 3.5p
k1 L1 L2 L3 1
.ENDS GDT_EP5_760301103

*nominal
.SUBCKT GDT_EP5_760301104 1 2 3 4 5 6
L1 2 N001b 470u 
Rser1 N001b N001 0.46
L2 4 3b 117.5u 
Rser2 3b 3 0.17
L4 1 N001 1.9u
C1 3 N001 3.5p
L3 6 5b 117.5u 
Rser3 5b 5 0.17
C2 6 2 3.5p
k1 L1 L2 L3 1
.ENDS GDT_EP5_760301104

*nominal
.SUBCKT GDT_EP5_760301105 1 2 3 4 5 6
L1 2 N001b 370u 0.45
Rser1 N001b N001 0.45
L2 4 3b 370u 
Rser2 3b 3 0.45
L4 1 N001 1.1u
C1 3 N001 4.5p
L3 6 5b 370u
Rser3 5b 5 0.45
C2 6 2 4.5p
k1 L1 L2 L3 1
.ENDS GDT_EP5_760301105

*nominal
.SUBCKT GDT_EP5_760301106 1 2 3 4
L1 2 N001b 510u 
Rser1 N001b N001 0.38
L2 4 3b 510u
Rser2 3b 3 0.47
L3 1 N001 1.4u
C1 3 N001 10p
k1 L1 L2 1
.ENDS GDT_EP5_760301106

*nominal
.SUBCKT GDT_EP5_760301107 1 2 3 4
L1 2 N001b 950u
Rser1 N001b N001 0.92
L2 4 3b 422u 
Rser2 3b 3 0.4
L3 1 N001 2.5u
C1 3 N001 9p
k1 L1 L2 1
.ENDS GDT_EP5_760301107

*nominal
.SUBCKT GDT_EP5_760301108 1 2 3 4
L1 2 N001b 700u
Rser1 N001b N001 0.55
L2 4 3b 112u
Rser2 3b 3 0.1
L3 1 N001 1.8u
C1 3 N001 9p
k1 L1 L2 1
.ENDS GDT_EP5_760301108

.subckt	GDT_TOR_750316094		5  7  6  8  1  3  2  4	
.param RxLkg=259.24ohm				
.param Leakage=0.15uh				
Rlkg	5	5a	{RxLkg/2}	
L_Lkg	5	5a	{Leakage/2}	
Rlkg2	6	6a	{RxLkg/2}	
L_Lkg2	6	6a	{Leakage/2}	
Lpri1	5a	5b	92.925uH	
Rser1	5b	7	74mohm	
Lpri2	6a	6b	92.925uH	
Rser2	6b	8	74mohm	
Lsec1	1	1a	2325uH	
Rser5	1a	3	585mohm	
Lsec2	2	2a	2325uH	
Rser6	2a	4	665mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1				
.param Cprm1=4.5pf				
.param Cprm2=4.5pf				
.param Rdmp1=160727.52ohm				
.param Rdmp2=160727.52ohm				
Cpri1	5	7a	{Cprm1}	
Rser13	7a	7	10mohm	
Cpri2	6	8a	{Cprm2}	
Rser14	8a	8	10mohm	
Rdmp1	5	7	{Rdmp1}	
Rdmp2	6	8	{Rdmp2}	
Rg3	5	0	20meg	
Rg4	6	0	20meg	
Rg7	7	0	20meg	
Rg8	8	0	20meg	
Rg11	1	0	20meg	
Rg12	2	0	20meg	
Rg19	3	0	20meg	
Rg20	4	0	20meg	
.ends	
			
.subckt	GDT_TOR_750316093		5  7  6  8  1  3  2  4	
.param RxLkg=127.58ohm				
.param Leakage=0.5uh				
Rlkg	5	5a	{RxLkg/2}	
L_Lkg	5	5a	{Leakage/2}	
Rlkg2	6	6a	{RxLkg/2}	
L_Lkg2	6	6a	{Leakage/2}	
Lpri1	5a	5b	599.75uH	
Rser1	5b	7	324.5mohm	
Lpri2	6a	6b	599.75uH	
Rser2	6b	8	324.5mohm	
Lsec1	1	1a	2400uH	
Rser5	1a	3	594mohm	
Lsec2	2	2a	2400uH	
Rser6	2a	4	677mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1				
.param Cprm1=32pf				
.param Cprm2=32pf				
.param Rdmp1=153092.32ohm				
.param Rdmp2=153092.32ohm				
Cpri1	5	7a	{Cprm1}	
Rser13	7a	7	10mohm	
Cpri2	6	8a	{Cprm2}	
Rser14	8a	8	10mohm	
Rdmp1	5	7	{Rdmp1}	
Rdmp2	6	8	{Rdmp2}	
Rg3	5	0	20meg	
Rg4	6	0	20meg	
Rg7	7	0	20meg	
Rg8	8	0	20meg	
Rg11	1	0	20meg	
Rg12	2	0	20meg	
Rg19	3	0	20meg	
Rg20	4	0	20meg	
.ends			
	
.subckt	GDT_ER9505_750311063		1  4  5  8	
.param RxLkg=445.56ohm				
.param Leakage=0.9uh				
Rlkg	1	1a	{RxLkg}	
L_Lkg	1	1a	{Leakage}	
Lpri1	1a	1b	849.1uH	
Rser1	1b	4	213mohm	
Lsec1	5	5a	850uH	
Rser5	5a	8	250mohm	
K Lpri1    Lsec1        1				
.param Cprm1=12pf				
.param Rdmp1=420810.37ohm				
Cpri1	1	4a	{Cprm1}	
Rser13	4a	4	10mohm	
Rdmp1	1	4	{Rdmp1}	
Rg3	1	0	20meg	
Rg7	4	0	20meg	
Rg11	5	0	20meg	
Rg19	8	0	20meg	
.ends